US08912198B2
Step 3: 5-(4-isopropylsulfonylphenyl)-3-[3-[4-(pyrrolidin-2-ylmethylamino)phenyl]isoxazol-5-yl]pyrazin-2-amine 1-5
A reaction mixture containing CuI (43.57 mg, 0.2288 mmol), Cs2CO3 (149.1 mg, 0.4576 mmol), 2-acetylcyclohexanone (64.15 mg, 0.4576 mmol), tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate (137.5 mg, 0.6864 mmol) and 3-(3-(4-iodophenyl)isoxazol-5-yl)-5-(4-(isopropylsulfonyl)phenyl)pyrazin-2-amine (125 mg, 0.2288 mmol) in DMF (7.500 mL) was heated at 90° C. overnight. The reaction mixture was cooled to rt and partitioned between ethyl acetate (5 mL) and water (5 mL) and the layers separated. The aqueous layer was extracted further with ethyl acetate (2×5 mL) and the combined organic extracts were washed sequentially with water (1×5 mL) and brine (1×5 mL), dried over MgSO4 and concentrated in vacuo which yielded an oil. The oil was purified by reverse phase preparative HPLC [Waters Sunfire C18, 100 Å column, 5 M, 19 mm×150 mm, (solvent A: 0.05% TFA in water; solvent B: 0.05% TFA in CH3CN) over 16 minutes at 20 mL/min]. The product fractions were combined and concentrated to leave a yellow solid. The solid was dissolved in CH2Cl2(10 mL) and TFA (2 mL) was added and the resulting solution stirred at rt for 5 h. The reaction mixture was concentrated in vacuo and the residue partitioned between CH2Cl2 (5 mL) and water (5 mL) and the combined organic extracts were dried over MgSO4 and concentrated in vacuo which was purified by reverse phase preparative HPLC [Waters Sunfire C18, 100 Å column, 5 M, 19 mm×150 mm, (solvent A: 0.05% TFA in water; solvent B: 0.05% TFA in CH3CN) over 16 minutes at 20 mL/min]. The product fractions were combined and concentrated to leave the title compound as a yellow solid (25 mg, 15% yield); 1H NMR (400.0 MHz, DMSO) d 1.19 (d, J=6.9 Hz, 6H), 1.68 (dd, J=8.2, 12.7 Hz, 1H), 1.93 (m, 2H), 2.15-2.11 (m, 1H), 3.23 (m, 2H), 3.45-3.39 (m, 1H), 3.56 (m, 1H), 3.71 (m, 2H), 6.80 (d, J=8.7 Hz, 2H), 7.18 (s, 1H), 7.65 (s, 1H), 7.80 (d, J=8.7 Hz, 2H), 7.94 (d, J=8.5 Hz, 2H), 8.38 (d, J=8.5 Hz, 2H), 8.47 (bs, 1H) and 8.94 (s, 2H) ppm; MS (ES+) 519.

reactant | Cs2CO3 | 0.4576 mmol, 149.1 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-acetylcyclohexanone | 0.4576 mmol, 64.15 mg | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate | 0.6864 mmol, 137.5 mg | NCC1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3-(3-(4-iodophenyl)isoxazol-5-yl)-5-(4-(isopropylsulfonyl)phenyl)pyrazin-2-amine | 0.2288 mmol, 125 mg | IC1=CC=C(C=C1)C1=NOC(=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)N | C22H19IN4O3S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 7.500 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.2288 mmol, 43.57 mg | [Cu]I
product | 5-(4-isopropylsulfonylphenyl)-3-[3-[4-(pyrrolidin-2-ylmethylamino)phenyl]isoxazol-5-yl]pyrazin-2-amine | 25 mg, 15% yield | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C=1N=C(C(=NC1)N)C1=CC(=NO1)C1=CC=C(C=C1)NCC1NCCC1 | C27H30N6O3S
